* Corner: FF — AC Open-Loop Analysis
.lib "sky130_minimal.lib.spice" ff
.include "ota_foldcasc.spice"

.param vdd_val = 1.8
.param vcm_val = 0.9

Vdd vdd 0 dc {vdd_val}
Vbn  vbn  0 dc 0.59
Vbcn vbcn 0 dc 0.88
Vbp  vbp  0 dc 0.73
Vbcp vbcp 0 dc 0.475

Vinp vinp 0 dc {vcm_val} ac 1
Lbreak vout vinn 1G
Cdc vinn 0 1

Xota vinp vinn vout vdd 0 vbn vbcn vbp vbcp ota_foldcasc
CL vout 0 10p

.ac dec 100 0.1 1G

.control
run
meas ac gain_peak MAX vdb(vout)
meas ac ugb WHEN vdb(vout)=0 FALL=1

echo "gain_peak = $&gain_peak"
echo "ugb = $&ugb"
quit
.endc
.end
